US07253281B2
d) (R)-4-Methyl-7-trifluoromethyl-1,2,3,4-tetrahydro-pyrazino[1,2-a]indole
(R)-4-Methyl-7-trifluoromethyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one (2.75 g; 10 mmol) was dissolved in diethylether (200 mL) and lithium aluminium hydride (0.78 g, 21 mmol) was added in portions with cooling. The solution was stirred for 2 h at reflux temperature, cooled and hydrolyzed by sequential addition of water (3.0 mL), sodium hydroxide solution (15%, 6.0 mL) and water (6.0 mL). Diethylether was added (100 mL), the mixture was filtered and the filtrate evaporated. The residue was stirred with hexane (20 mL) and diethylether (1 mL) to give the title compound as white solid (2.55 g, 97%). M.p.: 123–125° C., ISP-MS: m/e=255.1 (M+), αD20=−110.0

reactant | (R)-4-Methyl-7-trifluoromethyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | 10 mmol, 2.75 g | C[C@@H]1CNC(C=2N1C=1C=C(C=CC1C2)C(F)(F)F)=O | C13H11F3N2O
reactant | lithium aluminium hydride | 21 mmol, 0.78 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 3.0 mL | O | H2O
reactant | sodium hydroxide | 6.0 mL | [OH-].[Na+]
reactant | water | 6.0 mL | O | H2O
solvent | diethylether | 200 mL | C(C)OCC | C4H10O
product | (R)-4-Methyl-7-trifluoromethyl-1,2,3,4-tetrahydro-pyrazino[1,2-a]indole | 2.55 g, 97% | C[C@@H]1CNCC=2N1C=1C=C(C=CC1C2)C(F)(F)F | C13H13F3N2
